US04880820
(S)-9-[2,3-Bis(3-carboxypropyloxy)-1-propoxymethyl]guanine
A solution of (S)-9-(2,3-dihydroxy-1propoxymethyl)guanine (1.37 g, 5 mmol), 2.0 g of succinic anhydride, and 2.8 ml of anhydrous triethylamine in dry dimethylformamide (75 ml) is heated in an oil bath at 60° . When the reaction is complete (24 hours) the mixture is cooled and evaporated to dryness in vacuo. The residue is resuspended in ice-water (50 ml) and the pH is adjusted to 2 with 2N-HCl. The precipitate is filtered, thoroughly washed with ice-water, and dried in vacuo. The precipitate is then recrystallized from methanol.

reactant | (S)-9-(2,3-dihydroxy-1propoxymethyl)guanine | 5 mmol, 1.37 g | O[C@H](COCN1C=2N=C(NC(C2N=C1)=O)N)CO | C9H13N5O4
reactant | succinic anhydride | 2.0 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | (S)-9-[2,3-Bis(3-carboxypropyloxy)-1-propoxymethyl]guanine | C(=O)(O)CCCO[C@H](COCN1C=2N=C(NC(C2N=C1)=O)N)COCCCC(=O)O | C17H25N5O8
